US07381719B2
6-(2-Fluoro-4-formyl-phenoxy)-nicotinonitrile
Using a method similar to Example 365, step 1, using 4-hydroxy-3-fluoro-benzaldehyde (3.00 g, 21.4 mmol), 6-chloro nicotinonitrile (2.98 g, 21.5 mmol), and potassium carbonate (7.40 g, 53.5 mmol) in dimethylacetamide (100 mL) after 6 h at 100° C. provides 3.77 g (73%) of the title compound as a yellow solid (silica gel chromatography conditions: 19:1→1:4 hexanes:ethyl acetate): mass spectrum (electrospray): m/z=243.0 (M+1); 1H NMR (CDCl3): 10.00 (d, 1H, J=2.0 Hz), 8.42 (d, 1H, J=1.5 Hz), 8.01 (dd, 1H, J=2.0, 8.3 Hz), 7.80-7.72 (m, 2H), 7.43 (d, 1H, J=7.3 Hz), 7.19 (d, 1H, J=8.8 Hz).

reactant | 4-hydroxy-3-fluoro-benzaldehyde | 21.4 mmol, 3.00 g | OC1=C(C=C(C=O)C=C1)F | C7H5FO2
reactant | 6-chloro nicotinonitrile | 21.5 mmol, 2.98 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | potassium carbonate | 53.5 mmol, 7.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | 100 mL | CC(=O)N(C)C | C4H9NO
product | 6-(2-Fluoro-4-formyl-phenoxy)-nicotinonitrile | 3.77 g, 73% | FC1=C(OC2=NC=C(C#N)C=C2)C=CC(=C1)C=O | C13H7FN2O2
